US07238808B2
Step 3b) 5-(4-Chloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
To a solution of 5-(4-Chloro-phenyl)-7-trifluoromethyl-3-trimethylsilanylethynyl-pyrazolo[1,5-a]pyrimidine (13.3 g, 34 mmol) in THF (60 mL) and MeOH (150 mL) at 0° C. was added K2CO3 (467 mg, 10 mol %) and the mixture was stirred at 0° C. for 6 h, diluted with TBME and ice water, separated, washed with brine, dried over Na2SO4, concentrated and purified by column chromatography (heptane/EtOAc 100:0–90:10), triturated in heptane, filtered and dried to give the title compound(5.0 g, 45%) as an orange crystalline solid. MS (ISP) 322.2 [(M+H)+] and 324.2 [(M+2+H)+]; mp 102–103° C.

reactant | 5-(4-Chloro-phenyl)-7-trifluoromethyl-3-trimethylsilanylethynyl-pyrazolo[1,5-a]pyrimidine | 34 mmol, 13.3 g | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C[Si](C)(C)C | C18H15ClF3N3Si
reactant | K2CO3 | 467 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | MeOH | 150 mL | CO | CH4O
solvent | TBME | CC(C)(C)OC | C5H12O
product | 5-(4-Chloro-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 5.0 g, 45% | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C | C15H7ClF3N3
